US04072696
2.4 G. of 1-acetamido-2-nitro-4-benzylthiobenzene is treated with 2.4 g. iron powder and 1.2 g. ferrous sulfate in a mixture of 60 ml. water and 240 ml. methanol, at reflux for 4 hours. The mixture is then filtered, the filtrate concentrated and the residue recrystallized from benzene. Pure 1-acetamido-2-amino-4-benzylthiobenzene is obtained.

reactant | 1-acetamido-2-nitro-4-benzylthiobenzene | C(C)(=O)NC1=C(C=C(C=C1)SCC1=CC=CC=C1)[N+](=O)[O-] | C15H14N2O3S
reactant | water | O | H2O
catalyst | iron | [Fe] | Fe
solvent | methanol | CO | CH4O
product | 1-acetamido-2-amino-4-benzylthiobenzene | C(C)(=O)NC1=C(C=C(C=C1)SCC1=CC=CC=C1)N | C15H16N2OS
